US08471005B2
Into a 8-dram vial, Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (89 mg, 0.20 mmol), N,N-Diisopropylethylamine (0.0757 mL, 0.435 mmol), 2-Methoxy-4-(4-methyl-piperazin-1-ylmethyl)-phenylamine (100 mg, 0.4 mmol) and 1-Methoxy-2-propanol (0.71 mL) were added. The reaction mixture was heated at 120° C. for 6 hours. The solvent was removed under vacuum. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give N-Methyl-N-{2-[2-(4-methyl-piperazin-1-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide as a yellow solid. LCMS (E/I+) 401.20 (M+H). NMR 1H (DMSO-d6)-9.90 (bs, 1H), 8.99 (s, 1H), 7.88 (d, 1H, J=7.02 Hz), 7.65 (d, 1H, J=7.48 Hz), 7.45-7.54 (m, 2H), 7.00 (d, 1H, J=4.70 Hz), 6.92 (d, 1H, J=4.70 Hz), 4.45 (d, 2H, J=12.95 Hz), 3.49 (d, 2H, J=11.09 Hz), 3.03-3.25 (m, 7H), 2.89 (s, 3H), 2.82 (s, 3H).

reactant | Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.20 mmol, 89 mg | CS(=O)(=O)N(C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F)C | C15H13F3N4O5S2
reactant | N,N-Diisopropylethylamine | 0.435 mmol, 0.0757 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-Methoxy-4-(4-methyl-piperazin-1-ylmethyl)-phenylamine | 0.4 mmol, 100 mg | COC1=C(C=CC(=C1)CN1CCN(CC1)C)N | C13H21N3O
reactant | 1-Methoxy-2-propanol | 0.71 mL | COCC(C)O | C4H10O2
product | N-Methyl-N-{2-[2-(4-methyl-piperazin-1-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide | CN(S(=O)(=O)C)C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)N2CCN(CC2)C | C19H24N6O2S
